US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-(1-benzenesulfonyl-1H-indole-3-carbonyl)-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
To a solution of 1-(phenylsulfonyl)-1H-indole-3-carboxylic acid (1.0 g, 3.32 mmol) in DMF (15 ml) is added HATU (1.388 g, 3.65 mmol) and N-methyl morpholine (1.095 ml, 9.96 mmol) and the solution is stirred at room temperature for 5 minutes. 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride (Ex. 38) (1.452 g, 3.65 mmol) is added and the reaction stirred at room temperature for 45 minutes. The reaction mixture is diluted with water (100 ml) and the precipitate that forms is isolated by filtration. The crude product is suspended in 2N NaOH and extracted into EtOAc. The organic portion is dried over MgSO4 and concentrated in vacuo to yield a brown solid. The solid is suspended in a 1:1 mixture of water (+0.1% TFA) and acetonitrile. A fine brown solid is removed by filtration and the yellow filtrate is concentrated in vacuo until 10 ml of solvent remains and a pale yellow solid has precipitated. This solid is washed with 2N NaOH (60 ml) and then suspended in 2N NaOH (100 ml) and extracted into EtOAc (2×100 ml). The organic phases are combined, dried over MgSO4 and concentrated in vacuo to yield a pale cream solid. The cream solid is suspended in a 1:4 mixture of EtOAc:iso-hexane (100 ml) and the solid filtered off to give the free base of the title compound, which is suspended in 5 N HCl (20 ml) and stirred for 2 hours. MeOH (20 ml) is added to dissolve all solid and the solvent is concentrated in vacuo until a yellow solid precipitates. This solid is filtered off, rinsed with water and dried at 40° C. for 18 hours to give the title compound; [M+H]+ 607.42; 1H NMR (DMSO-d6): 1.86-1.92 (4H, m), 3.42-3.63 (4H, m), 3.68 (2H, s), 7.34 (1H, dd, J+7.5 Hz, J=7.5 Hz), 7.43 (1H, dd, J=7.5 Hz, J=7.5 Hz), 7.36-7.55 (2H, br), 7.62 (1H, d, J=7.5 Hz), 7.63 (2H, m), 7.73 (1H, m), 7.99 (1H, d, J=7.5 Hz), 8.06 (2H, obs), 8.07 (1H, s), 7.50-8.16 (2H, br), 9.18 (1H, s), 9.77 (1H, s), 11.09 (1H, s).

reactant | 1-(phenylsulfonyl)-1H-indole-3-carboxylic acid | 3.32 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(=O)O | C15H11NO4S
reactant | HATU | 3.65 mmol, 1.388 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl morpholine | 9.96 mmol, 1.095 ml | CN1CCOCC1 | C5H11NO
reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride | 3.65 mmol, 1.452 g | Cl.Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | NaOH | 2N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-(1-benzenesulfonyl-1H-indole-3-carbonyl)-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | C27H26ClN9O4S
